US07772285B2
0.636 g of sodium borohydride was added to 22 mL of ice-cooled ethanol, to which a solution of 1.09 g of calcium chloride in 14 mL of ethanol was added dropwise, followed by addition of 1.20 g of 5-(ethoxycarbonyl)-2-pyridinecarboxylic acid ½ calcium salt, and this mixture was stirred for one hour at room temperature. The reaction mixture, to which 2.8 mL of concentrated sulfuric acid was added, was stirred for 6 hours while heating it under reflux. The reaction mixture was cooled to room temperature and concentrated under reduced pressure followed by successive addition of a saturated aqueous solution of sodium hydrogen carbonate and chloroform, and then the organic phase was separated therefrom. The resultant organic phase was washed with a saturated sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure to yield 0.34 g of ethyl 5-(hydroxymethyl)-2-pyridinecarboxylate as light yellow solid.

reactant | sodium borohydride | 0.636 g | [BH4-].[Na+]
reactant | calcium chloride | 1.09 g | [Cl-].[Ca+2].[Cl-]
reactant | 5-(ethoxycarbonyl)-2-pyridinecarboxylic acid | 1.20 g | C(C)OC(=O)C=1C=CC(=NC1)C(=O)O | C9H9NO4
reactant | sulfuric acid | 2.8 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 14 mL | C(C)O | C2H6O
product | ethyl 5-(hydroxymethyl)-2-pyridinecarboxylate | 0.34 g | OCC=1C=CC(=NC1)C(=O)OCC | C9H11NO3
